US05290934
Employing ethyl 2(2-methyl-3,4,6-trifluorobenzoyl)-3-(2,4-difluorophenyl)aminoacrylate (1.1 g) and 60 sodium hydride (0.13 g), the procedure of Reference Example 9 is repeated to give ethyl 1-(2,4-difluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.7 g).

reactant | ethyl 2(2-methyl-3,4,6-trifluorobenzoyl)-3-(2,4-difluorophenyl)aminoacrylate | 1.1 g | CC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C(=CC(=C1F)F)F | C19H14F5NO3
reactant | sodium hydride | 0.13 g | [H-].[Na+]
product | ethyl 1-(2,4-difluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.7 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)OCC | C19H13F4NO3
